### PR TITLE
feat(ErdosProblems): 1038

### LINKED ISSUE #1087: Erdős Problem 1038
### What is the conjecture

https://www.erdosproblems.com/1038

  Let $f\in \mathbb{R}[x]$ be a monic polynomial of degree $n$ with $n$ real roots in $[-1,1]$. Determine the infimum and supremum of possible values of
$$\lvert \\{ x\in \mathbb{R} : \lvert f(x)\rvert < 1\\}\rvert.$$

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by CoolRmal**
Closes #1087

I tagged AMS 60 because the comments on https://www.erdosproblems.com/1038 suggest that this problem can be equivalently viewed as a problem about probability measures.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1038.lean [hunk 1]
```diff
@@ -0,0 +1,49 @@
...
+
+*Reference:*
+ - [erdosproblems.com/1038](https://www.erdosproblems.com/1038)
+-/
+
+open MeasureTheory
+
+namespace Erdos1038
+
+/-- What is the infimum of `|{x ∈ ℝ : |f (x)| < 1}|` over all monic polynomials `f` of degree `n`
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1038.lean]:
```suggestion
/-- What is the infimum of `|{x ∈ ℝ : |f(x)| < 1}|` over all monic polynomials `f` of degree `n`
```
or
```suggestion
/-- What is the infimum of `|{x ∈ ℝ : |f x| < 1}|` over all monic polynomials `f` of degree `n`
```
but right now you have a weird mix

File: FormalConjectures/ErdosProblems/1038.lean [hunk 2]
```diff
@@ -0,0 +1,49 @@
...
+with `n` roots in `[-1,1]`? -/
+@[category research open, AMS 60]
+theorem erdos_1038.inf (n : ℕ) : answer(sorry) =
+    ⨅ f : {f : Polynomial ℝ // f.IsMonicOfDegree n ∧
+    (f.roots.filter (fun x => x ∈ Set.Icc (-1 : ℝ) 1)).card = n},
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1038.lean]:
```suggestion
    (f.roots.filter fun x => x ∈ Set.Icc (-1 : ℝ) 1).card = n},
```

File: FormalConjectures/ErdosProblems/1038.lean [hunk 3]
```diff
@@ -0,0 +1,49 @@
...
+    volume ({x | |f.1.eval x| < 1}) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1038.lean]:
```suggestion
    volume {x | |f.1.eval x| < 1} := by
```

File: FormalConjectures/ErdosProblems/1038.lean [hunk 4]
```diff
@@ -0,0 +1,49 @@
...
+  sorry
+
+/-- What is the supremum of `|{x ∈ ℝ : |f (x)| < 1}|` over all monic polynomials `f` of degree `n`
+with `n` roots in `[-1,1]`? -/
+@[category research open, AMS 60]
+theorem erdos_1038.sup (n : ℕ) : answer(sorry) =
+    ⨆ f : {f : Polynomial ℝ // f.IsMonicOfDegree n ∧
+    (f.roots.filter (fun x => x ∈ Set.Icc (-1 : ℝ) 1)).card = n},
+    volume ({x | |f.1.eval x| < 1}) := by
+  sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1038.lean]: Same

**Comment by YaelDillies** [comment]
Will you state the known bounds?

**Comment by CoolRmal** [comment]
@YaelDillies I am reading the literature right now and I think there are some mistakes on the website, I want to make sure that I understand things correctly before formalizing.

Problem 1 of [[EHP58]](https://www.erdosproblems.com/forum/thread/1038#cite-EHP58-1038)( https://combinatorica.hu/~p_erdos/1958-05.pdf) is asking about the infimum/supremum of `|{x ∈ ℝ : |f x| < 1}|` over all monic polynomials `f` with all its real roots contained in `[-1,1]`. There should be no dependence on the degree of a polynomial, and I will later change my statements in lean.

Problem 2 of the same source is asking about the infimum of `|{x ∈ ℂ : |f x| < 1}|` over all monic polynomials `f` of degree `n` with all its real roots contained in the closed unit disk of the complex plane. This is an entirely different problem as they are asking about the two dimensional measure, and Pommerenke's result is about the two dimensional measure. I believe the website messes up these two problems. Maybe I'll also make a post later on the website.

I also changed the tag to `AMS 28` because I think most of the techniques used by Tao in https://terrytao.wordpress.com/wp-content/uploads/2025/12/erdos-1038-1.pdf belongs to what I learnt in measure theory. It just happened that they are dealing with probability measures.

**Comment by YaelDillies** [comment]
Oh I agree. Reading the references now, there seems to be a lot of confusion in the website statements... Please ping me when things are back on track and I'll give it another look!

**Comment by CoolRmal** [comment]
I removed the dependence on the degree and include the current best known bounds. On the website Thomas Bloom replied to me that "Pommerenke's result is relevant here, since it produces an interval of width ≫ n⁻⁴", which I agree. But this is then much smaller than the currect lower bound 1.519, so I don't think it worth to state it in this PR.

File: FormalConjectures/ErdosProblems/1038.lean [hunk 5]
```diff
@@ -0,0 +1,68 @@
...
+@[category research solved, AMS 28]
+theorem erdos_1038.inf_upperBound (n : ℕ) : ⨅ f : {f : Polynomial ℝ // f.Monic ∧
+    (f.roots.filter fun x => x ∈ Set.Icc (-1 : ℝ) 1).card = f.natDegree},
+    volume {x | |f.1.eval x| < 1} < 1.835 := by
+  sorry
+
+/-- The infimum of `|{x ∈ ℝ : |f x| < 1}|` over all monic polynomials `f` such that
+all of its roots are contained in `[-1,1]` is `≥ 2 ^ (4 / 3) - 1`. -/
+@[category research solved, AMS 28]
+theorem erdos_1038.inf_lowerBound (n : ℕ) : 2 ^ (4 / 3) - 1 ≤ ⨅ f : {f : Polynomial ℝ // f.Monic ∧
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1038.lean]:
```suggestion
theorem erdos_1038.inf_lowerBound (n : ℕ) : 2 ^ (4 / 3 : \R) - 1 ≤ ⨅ f : {f : Polynomial ℝ // f.Monic ∧
```
otherwise the lower bound is 1

File: FormalConjectures/ErdosProblems/1038.lean [hunk 6]
```diff
@@ -0,0 +1,68 @@
...
+    (f.roots.filter fun x => x ∈ Set.Icc (-1 : ℝ) 1).card = f.natDegree},
+    volume {x | |f.1.eval x| < 1} := by
+  sorry
+
+/-- The supremum of `|{x ∈ ℝ : |f x| < 1}|` over all monic polynomials `f` with all
+its roots contained in `[-1,1]` is  `2 * 2 ^ (1 / 2)`. This is proved in [Tao25]. -/
+@[category research solved, AMS 28]
+theorem erdos_1038.sup (n : ℕ) : 2 * 2 ^ (1 / 2) =
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1038.lean]: Same here

File: FormalConjectures/ErdosProblems/1038.lean [hunk 7]
```diff
@@ -0,0 +1,68 @@
...
+open MeasureTheory
+
+namespace Erdos1038
+
+/-- What is the infimum of `|{x ∈ ℝ : |f x| < 1}|` over all monic polynomials `f` such that
+all of its roots are contained in `[-1,1]`? -/
+@[category research open, AMS 28]
+theorem erdos_1038.inf (n : ℕ) : answer(sorry) =
+    ⨅ f : {f : Polynomial ℝ // f.Monic ∧
+    (f.roots.filter fun x => x ∈ Set.Icc (-1 : ℝ) 1).card = f.natDegree},
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1038.lean]: Can you clarify that it's assumed that all the roots of `f` are assume to be real?

File: FormalConjectures/ErdosProblems/1038.lean [hunk 8]
```diff
@@ -0,0 +1,68 @@
...
+    volume {x | |f.1.eval x| < 1} := by
+  sorry
+
+/-- The infimum of `|{x ∈ ℝ : |f x| < 1}|` over all monic polynomials `f` such that
+all of its roots are contained in `[-1,1]` is `< 1.835`. -/
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1038.lean]: Same here
